US04306097
3-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]cyclohexanone
3-[2-Benzyloxy-4-(1,1-dimethylhexyl)phenyl]cyclohexanone as an oil (11.0 g., 35%) from 2-(3-benzyloxy-4-bromophenyl)-2-methylheptane (30.2 g., 0.0806 mole) and 2-cyclohexen-1-one (8.5 g., 0.0886 mole).

reactant | 3-[2-Benzyloxy-4-(1,1-dimethylhexyl)phenyl]cyclohexanone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCC)(C)C)C1CC(CCC1)=O | C27H36O2
reactant | 2-(3-benzyloxy-4-bromophenyl)-2-methylheptane | 0.0806 mole, 30.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)C(C)(CCCCC)C | C21H27BrO
reactant | 2-cyclohexen-1-one | 0.0886 mole, 8.5 g | C1(C=CCCC1)=O | C6H8O
product | 3-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]cyclohexanone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CCC1)=O | C28H38O2
